data/rdb19/train.csv
rxn,smiles,ea
384,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1][O:2][C:5]([C:4]([H:10])([H:11])[H:12])([O:6][H:3])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13],14.066705755656583
3819,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25],24.292429808119778
1487,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[O:14][C:15]([H:21])([H:22])[H:23])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],21.0933090238832
2475,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([O:25][O:26])([H:27])([H:28])[H:29]>>[C:1]([H:10])([H:11])[H:12].[C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])([H:14])[O:26][O:25][C:24]([H:27])([H:28])[H:29],71.19394340686267
641,[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])([H:12])[C:18]([H:19])([H:20])[H:21]>>[C:18]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.80584553303197
3605,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24][c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:38])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],26.131939280894585
1695,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:18]([H:28])([H:29])[H:30],73.70030017883983
5573,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[N:16]([C:17](=[O:18])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4]([O:5])([H:10])[H:22])[H:9])[H:8])([H:6])[H:7],45.93545609927969
254,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:13]1([H:16])([H:17])[O:14][O:15]1.[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12])[H:9])([H:3])([H:4])[H:5],72.84727477660635
4988,[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:1]([H:5])([H:6])[H:7].[O:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[O:11][H:12],69.87354038539343
1904,[C:11]([O:12][O:13])([H:14])([H:15])[H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([O:12])([H:14])([H:15])[H:16].[N+:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])([H:7])[O-:13],66.61443279526429
684,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([N:7]([H:17])[H:18])[C:21]([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.47197898937157
5302,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:25]([O:24][C:22]([C:21]([H:27])([H:28])[H:29])=[O:23])([C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13],20.35437178297434
